US06391874B1
(4-Benzyloxy-phenyl)-(6-(pyridin-2-yl)-quinazolin-4-yl)-amine (Procedure B)
The (4-benzyloxy-phenyl)-(6-bromoquinazolin-4-yl)-amine (200 mg, 0.49 mmol), 2-(tributylstannyl)pyridine (200 mg, 0.53 mmol) and bis(triphenylphosphine)palladium(II) chloride (catalytic) were dissolved in dioxan (3 ml) and heated at reflux under nitrogen for 9 hr. The cooled reaction mixture was absorbed onto silica and purified by flash column chromatography (silica gel, eluting with an ethyl acetate/iso-hexane gradient). The resulting solid was triturated with iso-hexane/ethyl acetate to give the product (110 mg, 56%) as a pale yellow solid; δH [2H6]-DMSO 9.99 (1H, b, NH), 9.18 (1H, s, 5-H), 8.76 (1H, d, pyridine-H), 8.60 (1H, d, 7-H), 8.54 (1H, s, 2-H), 8.23 (1H, d, pyridine-H), 8.00 (1H, t, pyridine-H), 7.87 (1H, d, 8-H), 7.70 (2H, d, 2′-H, 6′-H), 7.53-7.31 (6H, m, 5×Ph-H, pyridine-H), 7.09 (2H, d, 3′-H, 5′-H), 5.14 (2H, s, CH2); m/z 405 (M+1)+.

reactant | (4-benzyloxy-phenyl)-(6-bromoquinazolin-4-yl)-amine | 0.49 mmol, 200 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)Br | C21H16BrN3O
reactant | 2-(tributylstannyl)pyridine | 0.53 mmol, 200 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | dioxan | 3 ml | O1CCOCC1 | C4H8O2
catalyst | bis(triphenylphosphine)palladium(II) chloride | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (4-Benzyloxy-phenyl)-(6-(pyridin-2-yl)-quinazolin-4-yl)-amine | 110 mg, 56% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=NC2=CC=C(C=C12)C1=NC=CC=C1 | C26H20N4O
